US05266592
Example 1: 1-Menthone glycerol ketal (known from Svishchuk, A. A.; Makhnovskii, N. K.; Mikryukova, N.Kh. Ukr. Khim. Zh. (Russ. Ed.) 43(2), 173-6, 1977 CA 87(5); 39667u)
In a 2 l three-necked flask there are introduced 308 g of 1-menthone (2 mol), 276 g of glycerol (3 mol) and 5 g of potassium hydrogen sulphate in toluene. This mixture is refluxed in a water separator. After 7 hours, 42 g of water have separated. The mixture is neutralised and distilled.

reactant | 1-menthone | 2 mol, 308 g | C[C@@H]1CC[C@H](C(=O)C1)C(C)C | C10H18O
reactant | glycerol | 3 mol, 276 g | OCC(O)CO | C3H8O3
reactant | potassium hydrogen sulphate | 5 g | S(=O)(=O)(O)[O-].[K+]
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-Menthone glycerol ketal | C[C@@H]1CC[C@H](C2(C1)OCC(O2)CO)C(C)C | C13H24O3
